US05880130
Using an analogous procedure to that described in Example 18, 4-chloro-6-(3'-methylanilino)pyrimidine (0.33 g) was reacted with 3-chloro-4-(N,N-dimethylcarbamoylmethoxy)aniline to give 4-[3'-chloro-4'-(N,N-dimethylcarbamoylmethoxy)anilino]6-(3'-methylanilino)pyrimidine is 46% yield, m.p. 190°-193° C.;

reactant | 4-chloro-6-(3'-methylanilino)pyrimidine | 0.33 g | ClC1=NC=NC(=C1)NC1=CC(=CC=C1)C | C11H10ClN3
reactant | 3-chloro-4-(N,N-dimethylcarbamoylmethoxy)aniline | ClC=1C=C(N)C=CC1OCC(N(C)C)=O | C10H13ClN2O2
product | 4-[3'-chloro-4'-(N,N-dimethylcarbamoylmethoxy)anilino]6-(3'-methylanilino)pyrimidine | 46% yield | ClC=1C=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=CC1OCC(N(C)C)=O | C21H22ClN5O2
